US04046763
A sodium hydride-mineral oil suspension (54%; 3.1 g., 0.069 mole) is stirred with three 50 ml. portions of dry hexane, each portion being pipetted out to remove the mineral oil. Dimethylformamide (30 ml., previously distilled and dried over a molecular sieve) is added through a pressure equalized addition funnel while a slow stream of nitrogen is passed through the mixture. The reaction vessel is cooled in an ice-bath while diethyl methylmalonate (12 g., 0.069 mole) is added dropwise to the stirred mixture. After the addition is complete, the ice-bath is replaced by an oil bath and the temperature is raised to 50° C. To the mixture is added dropwise 2-chloro-5--phenylpyrazine (10 g., 0.053 mole) in warm dimethylformamide (55 ml.). After this addition is complete, the mixture is heated for 31/2 hours during which time the temperature is raised to 120° C. The reaction mixture is cooled to about 80° C. and water (4 ml.) is added. The mixture is concentrated to a small volume, and the residual liquid is diluted with 50 g. of ice and extracted with ether several times. The combined ether extracts are washed with 5% hydrochloric acid, then with water, and then dried and evaporated. The resulting oil is chromatographed on a column of 500 g. of Merck acid-washed alumina. Elution with benzene-hexane (4:1) through ethyl acetate-benzene (1:3) yielded diethyl α-methyl-5-phenylpyrazinylmalonate.

reactant | sodium hydride | [H-].[Na+]
reactant | hexane | CCCCCC | C6H14
reactant | diethyl methylmalonate | 0.069 mole, 12 g | CC(C(=O)OCC)C(=O)OCC | C8H14O4
reactant | 2-chloro-5--phenylpyrazine | 0.053 mole, 10 g | ClC1=NC=C(N=C1)C1=CC=CC=C1 | C10H7ClN2
solvent | dimethylformamide | 55 ml | CN(C=O)C | C3H7NO
solvent | water | 4 ml | O | H2O
product | diethyl α-methyl-5-phenylpyrazinylmalonate | CC(C(=O)OCC)(C(=O)OCC)C1=NC=C(N=C1)C1=CC=CC=C1 | C18H20N2O4
